Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Drainage from port site
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
    Mr. ___ is a ___ year old gentleman with refractory 
pancreatic cancer currently on ___ phase II clinical trial 
who was is admitted for fevers, fatigue, hyperglycemia, and 
possible central line infection. He presented to ___ clinic 
today to receive hydration after complaining of one week of poor 
po intake, fatigue, and chills with no fevers. It was noted that 
his left sided port had an opening approximately 2 inches with 
purulent drainage. Per the patient and his wife, they have noted 
erythema and some drainage over the last week. He was sent 
directly to same day surgery and had his port removed. The 
drainage was swabbed and reportedly the tip of his port was sent 
for culture although it is not currently pending in the 
computer. He was then sent to the ED for further evaluation. 
Labs were remarkable for leukocytosis with left shift (although 
not dramatically changed from prior check one month ago), anemia 
with Hct of 25, hyperglycemia, and hyponatremia.  
  
    In the ED, intial vitals were 99.9, 150/82, 96, 18, 97% RA. 
Patient received 4L of NS, 1 gram vancomycin, 1 gram of 
cefepime. He also received 7 units of IV insulin. Upon arrival 
to the floor, patient notes feeling better. He continues to note 
one week of fatigue, decreased appetite, dizziness with change 
in position and ambulating, nausea, occasional vomiting without 
blood, abdominal pain (unchanged), and DOE with stairs since 
starting chemo.  

 
Past Medical History:
# Metastatic pancreatic CA  
- diagnosed in ___  
- currently being treated with ___ clinical trial assessing 
efficacy of capecitabine and oxaliplatin and refractory 
pancreatic cancer started ___  
- previously was on gemcitabine ___  
# Polycystic kidney disease  
# Hypertension  
# Hyperlipidemia  
# GERD  
# Chronic low back pain since ___  

 
Social History:
___
Family History:
He has a family history of autosomal dominant polycystic kidney 
disease and both his brothers and father passed away from 
end-stage renal disease at ages ___, ___ and ___ respectively. His 
daughter has ADPKD as well. His mother has DM. No family history 
of cancers, anemia, or thalessemia.
 
Physical Exam:
Gen: Pleasant, elderly male in NAD  
HEENT: No conjunctival pallor. No icterus. Dry MMs. OP clear.  
NECK: Supple, No LAD. JVP low.  
CV: RRR. nl S1, S2. No murmurs, rubs ___  
LUNGS: CTAB. L port site CDI with minimal tenderness to palp  
ABD: NABS. Soft,ND. Minimally tender to deep palpation  
EXT: WWP, NO CCE. Full distal pulses.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Moving all 
extremities.  

 
Pertinent Results:
___ 06:15AM BLOOD WBC-38.6* RBC-3.18* Hgb-9.5* Hct-28.7* 
MCV-90 MCH-29.9 MCHC-33.1 RDW-19.4* Plt ___
___ 06:30AM BLOOD WBC-36.7* RBC-3.18* Hgb-9.4* Hct-28.6* 
MCV-90 MCH-29.5 MCHC-32.8 RDW-19.1* Plt ___
___ 06:00AM BLOOD WBC-32.5* RBC-3.08* Hgb-9.0* Hct-27.5* 
MCV-89 MCH-29.2 MCHC-32.6 RDW-19.1* Plt ___
___ 06:27AM BLOOD WBC-27.9* RBC-2.99* Hgb-8.8* Hct-26.9* 
MCV-90 MCH-29.4 MCHC-32.7 RDW-19.0* Plt ___
___ 06:35AM BLOOD WBC-23.3* RBC-2.94* Hgb-8.8* Hct-25.7* 
MCV-87 MCH-29.9 MCHC-34.2 RDW-18.4* Plt ___
___ 08:15AM BLOOD WBC-24.9* RBC-3.04* Hgb-9.1* Hct-26.6* 
MCV-88 MCH-29.8 MCHC-34.0 RDW-18.2* Plt ___
___ 11:12PM BLOOD WBC-22.7* RBC-2.89* Hgb-8.6* Hct-25.5* 
MCV-88 MCH-29.8 MCHC-33.9 RDW-18.2* Plt ___
___ 05:00PM BLOOD WBC-18.6* RBC-2.95* Hgb-8.7* Hct-25.1* 
MCV-85 MCH-29.6 MCHC-34.7 RDW-17.4* Plt ___
___ 09:20AM BLOOD WBC-25.6* RBC-3.52* Hgb-10.4* Hct-30.8* 
MCV-88 MCH-29.5 MCHC-33.7 RDW-17.9* Plt ___
___ 06:30AM BLOOD Neuts-89.9* Lymphs-4.5* Monos-3.6 Eos-1.8 
Baso-0.2
___ 06:15AM BLOOD Glucose-85 UreaN-17 Creat-1.1 Na-133 
K-3.6 Cl-94* HCO3-28 AnGap-15
___ 08:15AM BLOOD ALT-19 AST-32 LD(LDH)-767* AlkPhos-254* 
TotBili-0.7
___ 06:15AM BLOOD Calcium-10.7* Phos-3.1 Mg-1.7
___ 06:27AM BLOOD %HbA1c-8.5*
___ 06:27AM BLOOD Hapto-287*

CT CHEST W/CONTRAST; CT ABDOMEN W/CONTRAST; CT PELVIS W/CONTRAST 
 
Final Report 
HISTORY: ___ male with metastatic pancreatic cancer, 
undergoing 
chemotherapy. Now presenting with leukocytosis and fever, 
without a 
definitive source. Evaluate for possible intra-abdominal 
abscess. 
  
TECHNIQUE: CT abdomen and pelvis with IV and p.o. contrast. 
MDCT-acquired 
axial images from the base of the neck to the pubic symphysis 
are displayed in 
5-mm slice thickness. Sagittally and coronally reformatted 
images are 
displayed in 5- mm slice thickness. 
  
COMPARISON: CT torso with IV contrast on ___. 
  
FINDINGS: 
  
CT CHEST WITH IV CONTRAST: There is a small pleural effusion on 
the right. 
There is new hazy-patchy opacity of the right lung base, and 
similar hazy- 
patchy opacity in lesser degree at the left lung base. These 
findings are 
likely atelectasis, but superinfection cannot be ruled out. 
  
CT ABDOMEN WITH IV CONTRAST: In the liver, the known metastasis 
are slightly 
larger in size compared to the prior study. There is linear 
hypodensity, 
representing either biliary dilation or extension of tumor. The 
mass seen at 
the tail of the pancreas, measuring 2.5 cm x 3 cm, is not 
significantly 
different from the prior study. Again seen is tumor encasing of 
splenic 
artery. 
  
There are bilateral polycystic kidneys with multiple large 
cysts. Some of the 
cysts have high Hounsfield unit, may represent hemorrhagic 
cysts. However, 
metastasis or primary tumor cannot be excluded. There is no 
significant 
lymphadenopathy seen in the abdomen. There is no evidence of 
intra-abdominal 
abscess. There is no free fluid in the abdomen. 
  
CT PELVIS WITH IV CONTRAST: There is contrast seen in the colon 
with normal 
fecal matter and gas. The small bowel appears normal. There is a 
small 
calcific density seen in the mesocolon subjacent to the 
abdominal wall without 
soft tissue involvement. This finding likely represents a 
nonspecific 
calcified lymph node. There is no evidence of pelvic abscess. 
There is no 
free fluid in the pelvis. 
  
BONES: There are degenerative changes in the lower lumbar. There 
is no 
suspicious lytic or sclerotic lesion. 
  
IMPRESSION: No evidence of intra-abdominal abscess. 
 

 
Brief Hospital Course:
___ yo Male w/ advanced pancreatic cancer presenting to clinic 
line infection, anemia, and hyperglycemia.  
  
Comfort Measures: ___ down with family and pt with palliative 
team to discuss management based on pt's CT scans. Pt and family 
members state that he would like to be comfortable and avoid any 
interventions that would prolong life without quality 
improvement. Pt is now DNR/DNI comfort measures. Pt is currently 
on a PO regimen of MS ___ for baseline pain control and PO 
Morphine Instant Release for breakthrough pain. Pt prefers oral 
pain medication over IV medication. Pt also complained of some 
anxiety overnight, frequency of ativan increased to every 6 
hours tohelp.

Nutrition: Over the weekend pt has had difficulty swallowing, pt 
now on regular diet pureed, thin liquid diet. Pt's family may 
bring in food the pt desires.

CODE STATUS: Pt declared himself DNR/DNI, Comfort Measures Only  


 
Medications on Admission:
capecitabine  
oxaliplatin  
Lipitor 20 mg daily  
lactulose BID  
lorazepam 0.5 mg - 1mg Q6-8 hrs prn axiety  
losartan 100 mg daily  
metoprolol tartrate 100 mg daily  
morphine 15 mg TID  
omeprazole 20 mg daily  
Zofran 8 mg Q8H prn  
paroxetine 10 mg daily  
compazine prn  
ambien 10 mg qhs  
colace  
senna  

 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Paroxetine HCl 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
6. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day).  
7. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).  
8. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
9. Ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO TID-AC ().  
10. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
11. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
12. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pancreatic Cancer

 
Discharge Condition:
Stable, Afebrile

 
Discharge Instructions:
You were admitted to the hospital after your chemotherapy port 
was noted to have some fluid draining from it. Whilst in the 
hospital we tested your blood which grew no infection. We also 
performed a CT scan which showed your cancer had progressed. 
After talking with you, your family and the palliative care team 
you decided to be comfort measures only. 

We are giving you only medications that will help you feel 
comfortable.
 
Followup Instructions:
___